US05168103
To a cooled (20° C.) flask containing 10% palladium on carbon (5.25 g) under nitrogen was added [3-[[(1,1-dimethylethyloxycarbonyl)methyl]-(2-ethoxy-3,4-dioxo-1-cyclobuten-1-yl)amino]propyl]carbamic acid phenylmethyl ester (5.25 g, 11.8 mmol) in ethanol (500 mL), followed by 1,4-cyclohexadiene (11 mL, 0.12 mol) over 5 min. After 5 hours, the suspension was filtered through Celite® with generous ethanol washing (1 L). The ethanol was evaporated and the residue was dissolved in dichloromethane and purified by flash chromatography (7.5 cm diameter, gradient elution with 2.5-3% methanol in dichloromethane) to yield (8,9-dioxo-2,6-diazabicyclo[5.2.0]non-1(7)-en-2-yl)acetic acid 1,1-dimethylethyl ester as a white solid (2.59 g, 82%, mp 167°-168° C.); IR (KBr, cm-1): 3200, 1800, 1720; MS (EI): 266 (M+, 42), 210 (33), 166 (37), 165 (100), 154 (58), 138 (37), 70 (58); 1H NMR (DMSO, 400 MHz): δ 8.62 (br s, NH), 4.38 (s, 2H), 3.36-3.27 (m, 4H), 1.91 (m, 2H), 1.40 (s, 9H).

reactant | [3-[[(1,1-dimethylethyloxycarbonyl)methyl]-(2-ethoxy-3,4-dioxo-1-cyclobuten-1-yl)amino]propyl]carbamic acid phenylmethyl ester | 11.8 mmol, 5.25 g | C1(=CC=CC=C1)COC(NCCCN(C1=C(C(C1=O)=O)OCC)CC(=O)OC(C)(C)C)=O | C23H30N2O7
reactant | 1,4-cyclohexadiene | 0.12 mol, 11 mL | C1=CCC=CC1 | C6H8
catalyst | palladium on carbon | 5.25 g | [Pd] | Pd
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | (8,9-dioxo-2,6-diazabicyclo[5.2.0]non-1(7)-en-2-yl)acetic acid 1,1-dimethylethyl ester | 2.59 g, 82% | CC(C)(C)OC(CN1C=2C(C(C2NCCC1)=O)=O)=O | C13H18N2O4
